US07799805B2
5-Bromo-2-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-pyridine
A sol. of 2-(2,6-dichloro-4-methyl-phenoxy)-ethanol (18.6 g, 84 mmol) in THF (360 mL) was cooled to 0° C. NaH (about 55% in oil, 6.60 g, about 153 mmol) was added in portions, and the mixture was stirred at rt for 30 min. A sol. of 2,5-dibrompyridine (18.0 g, 76.3 mmol) in THF (60 mL) was added dropwise, and the mixture was heated to reflux for 90 min. The mixture was allowed to cool to rt, and ice was added carefully. The solvents were partially removed under reduced pressure, and the residue was diluted with EtOAc. This mixture was washed with aq. sat. NH4Cl. The aq. layer was extracted back with EtOAc (2×). The combined org. extracts were washed with brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 3:97) yielded the title compound (22.7 g, 79%). LC-MS: tR=1.13 min; ES+: 378.08.

reactant | 2-(2,6-dichloro-4-methyl-phenoxy)-ethanol | 84 mmol, 18.6 g | ClC1=C(OCCO)C(=CC(=C1)C)Cl | C9H10Cl2O2
reactant | NaH | about 153 mmol, 6.60 g | [H-].[Na+]
reactant | 2,5-dibrompyridine | 76.3 mmol, 18.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | THF | 360 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-Bromo-2-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-pyridine | 22.7 g, 79% | BrC=1C=CC(=NC1)OCCOC1=C(C=C(C=C1Cl)C)Cl | C14H12BrCl2NO2
